US05614518
Step A: 2(RS)-(Phenoxymethyl)morpholine
2-Aminoethyl hydrogen sulphate (49 g, 0.347 mol) was added in portions to a mixture of (±)-1,2-epoxy-3-phenoxypropane (11.2 ml, 0.083 mol), sodium hydroxide (26.4 g, 0.66 mol) in water (50 ml) and methanol (20 ml). After addition the reaction mixture was stirred at 40° C. (oil bath temperature) for 2 hours. The reaction mixture was cooled, sodium hydroxide pellets (20.65 g, 0.516 mol) and toluene (80 ml) were added, then the reaction mixture stirred, whilst heating at 65° C. (oil bath temperature) for 7.5 hours. The reaction mixture was cooled, toluene (40 ml) and water (140 ml) were added. The toluene phase was extracted with 2M hydrochloric acid (2×60 ml). The acid extracts were combined, 40% sodium hydroxide solution added to pH=11, then extracted with toluene (2×60 ml). The combined organics were dried (sodium sulphate) then evaporated to give a colourless gum (10 g) which was purified by column chromatography on silica, using neat ethyl acetate to remove the lipophilic impurities then ethyl acetate/methanol/ammonia (9:1:0.1) to elute the required product as a colourless oil (7.0 g, 44%). Rf 0.22 in dichloromethane/methanol (9:1) on silica plates MS CI+, m/z=194 for (M+H)+. 1H NMR (360 MHz, CDCl3) δ2.54-2.85 (2H, m), 2.92 (1H, ddd, J1 =2, J2 =J3 =12 Hz), 3.05 (1H, dd, J1 =2, J2 =12 Hz), 3.67 (1H, ddd, J1 =2, J2 =J3=12 Hz), 3.83-4.03 (4H, m), 6.88-6.97 (3H, m), 7.23-7.30 (2H, m).

reactant | 2-Aminoethyl hydrogen sulphate | 0.347 mol, 49 g | S(=O)(=O)(OCCN)O | C2H7NO4S
reactant | (±)-1,2-epoxy-3-phenoxypropane | 0.083 mol, 11.2 ml | O1CC1COC1=CC=CC=C1 | C9H10O2
reactant | sodium hydroxide | 0.66 mol, 26.4 g | [OH-].[Na+]
reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 140 ml | O | H2O
product | 2(RS)-(Phenoxymethyl)morpholine | 10 g | O(C1=CC=CC=C1)CC1CNCCO1 | C11H15NO2
